US09101616B2
Step-5: 3-(2,2,2-trifluoroethoxy)-6,7-dihydroquinolin-8(5H)-one
A mixture of 3-(2,2,2-trifluoroethoxy)-5,6,7,8-tetrahydroquinolin-8-ol (193 mg, 0.78 mmol) and manganese (IV) oxide (543 mg, 6.3 mmol) in dichloromethane (10 mL) was stirred at room temperature for 3 hours. Then, the mixture was filtered through a pad of Celite, and the filtrate was concentrated in vacuo. The residual solid was washed with diethyl ether to give 155 mg (81% yield) of the title compound as a pale yellow solid:

reactant | 3-(2,2,2-trifluoroethoxy)-5,6,7,8-tetrahydroquinolin-8-ol | 0.78 mmol, 193 mg | FC(COC=1C=NC=2C(CCCC2C1)O)(F)F | C11H12F3NO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | manganese (IV) oxide | 6.3 mmol, 543 mg | [O-2].[Mn+4].[O-2]
product | 3-(2,2,2-trifluoroethoxy)-6,7-dihydroquinolin-8(5H)-one | 155 mg, 81% yield | FC(COC=1C=NC=2C(CCCC2C1)=O)(F)F | C11H10F3NO2
